US07592363B2
((3R)-1-{4-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}PIPERIDIN-3-YL)ACETIC ACID
A solution of methyl ((3R)-1-{4-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}piperidin-3-yl)acetate (0.045 g, 0.08 mmol) in CH3OH-THF (1:1, v/v) containing 0.5 mL of 1 N NaOH was stirred overnight at ambient temperature. Then it was neutralized with dilute acid and partitioned with ethyl acetate and brine. The organic phase was dried (Na2SO4) and concentrated in vacuo. The crude product was crystallized from ether/petroleum ether to give 0.036 g of title compound as a pale yellow solid.

reactant | methyl ((3R)-1-{4-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}piperidin-3-yl)acetate | 0.08 mmol, 0.045 g | FC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)N2C[C@H](CCC2)CC(=O)OC)C(F)(F)F)C(=CC(=C1)F)F | C29H25F6N3O2
reactant | NaOH | 1 N, 0.5 mL | [OH-].[Na+]
solvent | CH3OH THF | CO.C1CCOC1
product | ((3R)-1-{4-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}PIPERIDIN-3-YL)ACETIC ACID | 0.036 g | FC1=C(CN2N=C3C(=CC=CC3=C2C2=CC=C(C=C2)N2C[C@H](CCC2)CC(=O)O)C(F)(F)F)C(=CC(=C1)F)F | C28H23F6N3O2
